US04497740
20.3 g. of 2-(2'-aminobenzoyl)thiophene were heated for 6 hours at 60°-70° C. together with 10.2 g. of epichlorohydrin and 6 g. of acetic acid. This reaction mixture was then poured onto water, and the mixture was extracted with methylene chloride. The organic phase was separated off, washed until neutral, dried and filtered, and the filtrate was evaporated. 25 g. of 2-(2'-[N-(3-chloro-2-hydroxylpropyl)-amino]-benzoyl)-thiophene were obtained as an oily crude product. This was heated without further purification, for 2.5 hours on a waterbath together with 32 ml. of formic acid and 16 ml. of 37% strength formaldehyde solution. The solution was then poured onto ice, and the mixture was extracted with chloroform. The organic phase was washed with saturated sodium carbonate solution until it had a neutral reaction. The chloroform phase was then dried and filtered, and the filtrate was evaporated. 24 g. of 2-(2'-[N-(3-chloro-2-hydroxypropyl)-methylamino]-benzoyl)-thiophene were obtained. This was reacted with 3.5 g. of sodium hydroxide and 6.8 ml. of water in 50 ml. of dioxane and 50 ml. of isopropanol for 10 hours at room temperature. After removal of the organic solvent in vacuo, the oily crude product was dissolved in methylene chloride, and the solution was washed with water until neutral, dried over sodium sulphate and filtered. The methylene chloride was distilled off, and 12 g. of 2-(2-[N-(2,3-epoxypropyl)-methylamino]-benzoyl)-thiophene were obtained. This was cyclised with 36 g. of ammonia in 1,200 ml. of methanol by heating for 10 hours at 150° C. in a steel autoclave. When the solvent had been distilled off, 9 g. of 1-methyl-3-hydroxy-6-thienyl-1,2,3,4-tetrahydro-1,5-benzodiazocine were obtained. Boiling for 2 hours with thionyl chloride under reflux produced 10 g. of crude 1-methyl-2-chloromethyl-5-(2'-thienyl)-1H-2,3-dihydro-1,4-benzodiazepine hydrochloride. After recrystallising from acetone/isopropanol, 8 g. of 1.methyl-2-chloromethyl-5-(2'-thienyl)-1H-2,3-dihydro-1,4-benzodiazepine hydrochloride having a melting point of 163°-164° C. were obtained.

reactant | 2-(2'-aminobenzoyl)thiophene | NC1=C(C(=O)C=2SC=CC2)C=CC=C1 | C11H9NOS
reactant | epichlorohydrin | C(Cl)C1CO1 | C3H5ClO
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-(2'-[N-(3-chloro-2-hydroxylpropyl)-amino]-benzoyl)-thiophene | ClCC(CNC1=C(C(=O)C=2SC=CC2)C=CC=C1)O | C14H14ClNO2S
